US08114868B2
A solution of 3-chloro-1-phenylpropan-1-one (100 g, 0.595 mol) in THF (280 ml) was added dropwise to a well-stirred mixture of zinc powder (need not be activated) (40 g, 1.231 mol, satd aq NH4Cl solution (1500 ml) and THF (400 ml). Allyl bromide (143 g, 1.19 mol) was dissolved in THF (200 ml) was slowly added to the reaction mixture. The reaction was mildly exothermic, and the mixture began to reflux spontaneously. After refluxing had ceased, the mixture was stirred for 1 h. The mixture was extracted with EtOAc, dried over anhydrous Na2SO4, and concentrated to give 1-chloro-3-phenylhex-5-en-3-ol (122 g, 97%). 1H NMR: (400 MHz, CDCl3): δ=2.24(s, 1H), 2.34 (m, 2H), 2.53 (m, 1H), 2.75 (m, 1H), 3.20 (m, 1H), 3.58 (m, 1H), 5.18 (t, 1H), 5.51 (m, 1H), 7.26 (m, 1H), 7.26-7.39 (m, 3H).

reactant | 3-chloro-1-phenylpropan-1-one | 0.595 mol, 100 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | NH4Cl | 1500 ml | [NH4+].[Cl-]
reactant | Allyl bromide | 1.19 mol, 143 g | C(C=C)Br | C3H5Br
solvent | THF | 280 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | zinc | [Zn] | Zn
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 1-chloro-3-phenylhex-5-en-3-ol | 122 g, 97% | ClCCC(CC=C)(O)C1=CC=CC=C1 | C12H15ClO
